* ============================================================
* Power Supply - single 24V input, virtual-ground split for the
*   audio (preamp) branch, isolated black-box load for the motor
*   branch (first draft SPICE netlist)
*
* Raw input: a COTS 24V DC brick (not modeled internally - Vraw_src
*   below just represents that brick's output as an ideal 24V source
*   for simulation purposes).
*
* See the project log and motor-branch-interface-spec.md for the
*   full reasoning behind this topology and the motor branch's
*   interface contract (current budget, ground-return requirement,
*   conducted-noise budget).
* ============================================================

.subckt IDEAL_OPAMP inP inN out
Ein out 0 inP inN 1MEG
Rin_ideal inP inN 1G
.ends IDEAL_OPAMP

* --- Raw input, reverse-polarity protection, fusing ---
* SAFETY-SENSITIVE: exact diode part/rating and fuse current rating
* are reserved for your sign-off per the project's working agreements
* - the values below are placeholders for first-draft simulation
* only, NOT a final safety-component selection.
Vraw_src raw_in 0 DC 24
Dpol raw_in vraw_pol D_generic
.model D_generic D(IS=1e-9 RS=0.05 N=1.05 BV=100)   ; generic diode approximation - CONFIRM REAL PART/RATING WITH USER
Rfuse vraw_pol VRAW 0.05                             ; fuse modeled as its normal-operation resistance only (not a blow model) - CONFIRM RATING WITH USER

Cbulk VRAW 0 470u        ; raw-rail bulk reservoir/filter capacitor

* --- Virtual ground generator (audio branch reference) ---
* Reference implementation shown here: resistive divider + unity-
* gain buffer, for low output impedance at the virtual-ground node.
* Could be replaced with a dedicated rail-splitter IC (e.g. TLE2426 -
* likely fewer parts than this discrete version) once you're ready to
* finalize the part - this discrete version is a first-draft
* reference you can simulate with generic parts today.
Rvg1 VRAW vg_sense 10k
Rvg2 vg_sense 0 10k
Cvg vg_sense 0 10u
Xvg vg_sense VGND VGND IDEAL_OPAMP    ; unity-gain buffer -> VGND
* (Replace IDEAL_OPAMP here with a real, cheap general-purpose op-amp
* subcircuit when finalizing - this buffer isn't in the audio signal
* path, so it does NOT need OPA1642-grade noise/precision.)

* --- Audio branch rails, as seen by riaa_preamp.cir ---
* Integration note: tie the preamp circuit's "0" (audio ground) net
* to VGND here, and its "+rail"/"-rail" nets to VRAW and PGND
* respectively. With VRAW=24V and VGND sitting at the ~12V midpoint,
* the preamp effectively sees a symmetric +/-12V dual supply built
* from a single raw rail.

* --- Motor branch: BLACK BOX per motor-branch-interface-spec.md ---
* NOT a real implementation - modeled here only as a current step to
* test PSU-level behavior (does VRAW/VGND sag or destabilize when the
* motor branch draws its full budgeted current?). Real motor branch
* (regulator/driver, exact voltage) is still TBD pending motor
* selection, and must independently meet the current, ground-return,
* and conducted-noise requirements in the interface spec regardless
* of its internal design - this load model is just a stand-in for
* "the worst case the interface spec allows," not a design.
* Steps from 0 to the 200mA continuous budget at t=2ms, held - watch
* VGND and VRAW in the transient plot for any sag/disturbance.
Imotor_load VRAW 0 PULSE(0 200m 2m 10u 10u 50m 100m)

* --- Analysis ---
.op
.tran 0 1000m 0 10u    ; watch V(VRAW), V(VGND) settle, then respond to the motor current step at t=2ms

.end
